US04306074
(b 1) 300 parts of 3-chlorophthalic anhydride in 1,200 parts by volume of formamide are stirred for 2 hours at 140° C. The mixture is then allowed to cool to 100° C. after which the solution is poured into 5,000 parts by volume of water. The precipitate which forms is filtered off, washed with water and dried under reduced pressure. 275 parts (92.2% of theory) of 3-chlorophthalimide, of melting point 236°-238° C., are obtained.

reactant | 3-chlorophthalic anhydride | ClC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3ClO3
reactant | formamide | C(=O)N | CH3NO
solvent | water | O | H2O
product | 3-chlorophthalimide | 92.2% | ClC1=C2C(C(=O)NC2=O)=CC=C1 | C8H4ClNO2
